US07790747B2
(R)-tetrahydro-pyran-4-carboxylic acid (2-amino-2-phenyl-ethyl)-amide (450 mg, 1.82 mmol) was dissolved in dry THF; and 5.45 ml of borane-THF complex (1M in THF, 5.45 mmol) was added. The solution was refluxed for 3 hours. The reaction was then cooled to room temperature. Methanol (7 ml) was added slowly through the condenser, and the reaction brought to reflux for a further 15 minutes. The reaction was again cooled to room temperature; and the volatiles were removed under high vacuum. More methanol was added and subsequently evaporated (3×15 ml). The resulting residue was dissolved in ethylenediamine (7 ml) and the solution was heated to 60° C. for 20 minutes. The reaction was then quenched with the addition of a saturated aqueous solution of NaHCO3. This aqueous phase was extracted with DCM; and the organic extracts dried over Na2SO4. The solvent was removed in vacuo to give the crude product. Purification by flash chromatography over silica gel afforded (R)-1-Phenyl-N2-(tetrahydro-pyran-4-ylmethyl)-ethane-1,2-diamine (304 mg, 72%).

reactant | (R)-tetrahydro-pyran-4-carboxylic acid (2-amino-2-phenyl-ethyl)-amide | 1.82 mmol, 450 mg | N[C@@H](CNC(=O)C1CCOCC1)C1=CC=CC=C1 | C14H20N2O2
reactant | borane THF | 5.45 mmol, 1M, 5.45 ml | B.C1CCOC1
reactant | Methanol | 7 ml | CO | CH4O
solvent | THF | C1CCOC1 | C4H8O
product | (R)-1-Phenyl-N2-(tetrahydro-pyran-4-ylmethyl)-ethane-1,2-diamine | 304 mg, 72% | C1(=CC=CC=C1)[C@H](CNCC1CCOCC1)N | C14H22N2O
